US07728030B2
(S)-tert-butyl 1-(methoxy(methyl)amino)-1-oxopentan-2-ylcarbamate (91d)
Commercially available (2S)-2-[(tert-butoxycarbonyl)amino]pentanoic acid (1.0 g, 4.6 mmol) and N,O-dimethylhydroxylamine hydrochloride (0.47 g, 4.8 mmol) were dissolved in DMF (18 ml). O-benzotriazole-1-yl-N,N,N′,N′-tetramethyl-uronium hexafluorophosphate (1.92 g, 5.06 mmol) and N,N-diisopropylethylamine (2.47 ml, 14.5 mmol) were added. The reaction was stirred at r.t. over night. The reaction was poured into a mixture of water and ethyl acetate. The mixture was shaken, the layers separated and the water layer washed twice with ethyl acetate. The collected organic phase was washed with a small portion of water and dried over sodium sulphate. The solvent was removed under educed pressure and the crude product was purified by flash chromatography.

reactant | (2S)-2-[(tert-butoxycarbonyl)amino]pentanoic acid | 4.6 mmol, 1.0 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CCC | C10H19NO4
reactant | N,O-dimethylhydroxylamine hydrochloride | 4.8 mmol, 0.47 g | Cl.CNOC
reactant | O-benzotriazole-1-yl-N,N,N′,N′-tetramethyl-uronium hexafluorophosphate | 5.06 mmol, 1.92 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 14.5 mmol, 2.47 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 18 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (S)-tert-butyl 1-(methoxy(methyl)amino)-1-oxopentan-2-ylcarbamate | CON(C([C@H](CCC)NC(OC(C)(C)C)=O)=O)C | C12H24N2O4
